US04699905
α-{6-[1-Ethoxycarbonyl-3-phenylpropylamino]-5-oxo-2-phenylperhydro-1,4-thiazepin-4-yl}acetic acid (Compound No. 29)
0.28 g of t-butyl α-{6-[1-ethoxycarbonyl-3-phenylpropylamino]-5-oxo-2-phenylperhydro-1,4-thiazepin-4-yl}acetate [prepared as described in Example 7(i) above (the first fraction)] was subjected to de-t-butylation with trifluoracetic acid in the same manner as described in Example 3, giving the title compound as an amorphous solid in a yield of 0.18 g.

reactant | t-butyl α-{6-[1-ethoxycarbonyl-3-phenylpropylamino]-5-oxo-2-phenylperhydro-1,4-thiazepin-4-yl}acetate | 0.28 g | C(C)OC(=O)C(CCC1=CC=CC=C1)NC1C(N(CC(SC1)C1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C29H38N2O5S
reactant | trifluoracetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | α-{6-[1-Ethoxycarbonyl-3-phenylpropylamino]-5-oxo-2-phenylperhydro-1,4-thiazepin-4-yl}acetic acid | C(C)OC(=O)C(CCC1=CC=CC=C1)NC1C(N(CC(SC1)C1=CC=CC=C1)CC(=O)O)=O | C25H30N2O5S
